US05576321
Preparation of 1-(4-indolyloxy)-3-([2-(1-methyl-1H-pyrrol-2-yl)ethyl]amino)-2-propanol
The title compound was prepared in similar fashion from 4-(oxiranylmethoxy)-1H-indole and 2-(1-methyl-1H-pyrrol-2-yl)ethylamine in 60% yield. FDMS m/e=313. mp 105°-106°.

reactant | 4-(oxiranylmethoxy)-1H-indole | O1C(C1)COC1=C2C=CNC2=CC=C1 | C11H11NO2
reactant | 2-(1-methyl-1H-pyrrol-2-yl)ethylamine | CN1C(=CC=C1)CCN | C7H12N2
product | 1-(4-indolyloxy)-3-([2-(1-methyl-1H-pyrrol-2-yl)ethyl]amino)-2-propanol | 60% yield | N1C=CC2=C(C=CC=C12)OCC(CNCCC=1N(C=CC1)C)O | C18H23N3O2
